US05622967
(i) preparation of 3,6-dichloropyridazine tributylstannane
A THF solution (10 mL) of 3,6-dichloropyridazine (16.8 mmol, 2.5 g) was added dropwise to a solution of lithium tetramethylpiperidine (20.1 mmol) in 170 mL of THF at -78° C. After one hour at -78° C., tributyltin chloride (21.8 mmol, 5.8 mL) was added to the anion solution and the solution was allowed to warm slowly overnight.

reactant | 3,6-dichloropyridazine | 16.8 mmol, 2.5 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | lithium tetramethylpiperidine | 20.1 mmol | CC1C(N(CCC1)C)(C)C.[Li]
reactant | tributyltin chloride | 21.8 mmol, 5.8 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,6-dichloropyridazine tributylstannane | C(CCC)[SnH](CCCC)CCCC.ClC=1N=NC(=CC1)Cl | InChI=1S/C4H2Cl2N2.3C4H9.Sn.H/c5-3-1-2-4(6)8-7-3;3*1-3-4-2;;/h1-2H;3*1,3-4H2,2H3;;
